US05310743
a) 2-Benzyl-N-benzyloxycarbonyl-2,3-dihydro-4-(1H)-pyridone
165 ml (1.16 mol) of benzyl chloroformate are added dropwise over the course of 20 minutes to a solution of 104 g (0.95 mol) of 4-methoxypyridine in 1 l of anhydrous tetrahydrofuran at -70° under argon. The thick beige suspension is then diluted with 200 ml of anhydrous tetrahydrofuran. The Grignard reagent prepared from 460 ml (1.46 mol) of a 3 molar solution of benzyl chloride in anhydrous ether and 35.5 g (1.46 mol) of magnesium turnings in 160 ml of anhydrous ether is then added dropwise to the reaction mixture over the course of 75 minutes, maintaining the temperature at -70°. After a further 10 minutes, it is allowed to warm to room temperature. It is diluted with 500 ml of ether, 900 ml of 4N hydrochloric acid are added dropwise, and the phases are separated. The organic phases are washed with water and brine, dried over magnesium sulfate and evaporated to dryness. The residue is chromatographed on silica gel with hexane/ethyl acetate (3:1). The title compound is obtained as a colourless viscous oil. TLC: hexane/ethyl acetate (1:3) Rf =0.7, IR: 1725, 1665, 1602 cm-1.

reactant | benzyl chloroformate | 1.16 mol, 165 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | 4-methoxypyridine | 0.95 mol, 104 g | COC1=CC=NC=C1 | C6H7NO
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | magnesium | 1.46 mol, 35.5 g | [Mg] | Mg
solvent | tetrahydrofuran | 1 l | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | ether | 160 ml | CCOCC | C4H10O
solvent | ether | 500 ml | CCOCC | C4H10O
solvent | hydrochloric acid | 4N, 900 ml | Cl | ClH
product | 2-Benzyl-N-benzyloxycarbonyl-2,3-dihydro-4-(1H)-pyridone | C(C1=CC=CC=C1)C1N(C=CC(C1)=O)C(=O)OCC1=CC=CC=C1 | C20H19NO3
